US07176242B2
Step 2: Methyl 4-butyl-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate
A solution of methyl 4-butyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate (800 mg) and 9-BBN (1.6 g) in tetrahydrofuran (13 mL) was refluxed for 1.5 h. The mixture was cooled to room temperature, ethanolamine (0.4 mL) was added, and the resulting solution was concentrated under reduced pressure. The residue was washed with hexanes, filtered, and the filtrate was concentrated under reduced pressure. Purification by flash column chromatography (silica, 25% ethyl acetate/hexanes) afforded 607 mg of the title compound: 1H NMR (300 MHz, DMSO-d6) δ 7.21, 7.16, 6.75, 4.24–4.21, 3.78, 3.34–3.24, 1.55–1.47, 1.38–1.30, 0.95–0.90.

reactant | methyl 4-butyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate | 800 mg | C(CCC)N1C(COC2=C1C=C(C=C2)C(=O)OC)=O | C14H17NO4
reactant | 9-BBN | 1.6 g | B1C2CCCC1CCC2 | C8H15B
reactant | ethanolamine | 0.4 mL | C(O)CN | C2H7NO
solvent | tetrahydrofuran | 13 mL | O1CCCC1 | C4H8O
product | Methyl 4-butyl-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate | 607 mg | C(CCC)N1CCOC2=C1C=C(C=C2)C(=O)OC | C14H19NO3
